US07119102B2
(2-Benzo[b]thiophen-2-yl-2-oxo-ethyl)-carbamic acid tert-butyl ester (544 mg, 1.867 mmol) was dissolved into 3 mL of EtOAc and 10 mL of 4.0 M HCl in dioxane was added. The mixture was allowed to stir overnight with a white precipitate forming. The precipitate was triturated with 3×10 mL of EtOAc and dried under vacuum to give 400 mg, 94.7% of crude 2-amino-1-benzo[b]thiophen-2-yl-ethanone HCl salt. The material was carried on without further purification.

reactant | (2-Benzo[b]thiophen-2-yl-2-oxo-ethyl)-carbamic acid tert-butyl ester | 1.867 mmol, 544 mg | C(C)(C)(C)OC(NCC(=O)C1=CC2=C(S1)C=CC=C2)=O | C15H17NO3S
reactant | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
reactant | HCl | 4.0 M, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-amino-1-benzo[b]thiophen-2-yl-ethanone HCl salt | 400 mg, 94.7% | Cl.NCC(=O)C1=CC2=C(S1)C=CC=C2 | InChI=1S/C10H9NOS.ClH/c11-6-8(12)10-5-7-3-1-2-4-9(7)13-10;/h1-5H,6,11H2;1H
